US07557213B2
Step 2: 1-(3-Bromo-benzyl)-3-(6-trifluoromethyl-pyridine-3-carbonyl)-1H-quinolin-4-one
Experimental conditions analogous to those described for Step 6 of Example 60, from 71 mg (0.22 mmol) of 3-(6-trifluoromethyl-pyridine-3-carbonyl)-1H-quinolin-4-one, 11 mg (0.27 mmol) of 60% sodium hydride, 67 mg (0.27 mmol) of 3-bromobenzyl bromide and 1 mL of N,N-dimethylformamide. Yield: 85 mg of a white solid: LC-MSD, m/z for C23H14BrF3N2O2 [M+H]+=487.0, 489.0; HPLC retention time: 2.7 min.

reactant | 3-(6-trifluoromethyl-pyridine-3-carbonyl)-1H-quinolin-4-one | 0.22 mmol, 71 mg | FC(C1=CC=C(C=N1)C(=O)C1=CNC2=CC=CC=C2C1=O)(F)F | C16H9F3N2O2
reactant | sodium hydride | 0.27 mmol, 11 mg | [H-].[Na+]
reactant | 3-bromobenzyl bromide | 0.27 mmol, 67 mg | BrC=1C=C(CBr)C=CC1 | C7H6Br2
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 1-(3-Bromo-benzyl)-3-(6-trifluoromethyl-pyridine-3-carbonyl)-1H-quinolin-4-one | BrC=1C=C(CN2C=C(C(C3=CC=CC=C23)=O)C(=O)C=2C=NC(=CC2)C(F)(F)F)C=CC1 | C23H14BrF3N2O2
